US07501414B2
6a (2,6-Dimethyl-4-morpholin-4-yl-phenyl)-carbamic acid benzyl ester
Benzyl chloroformate (32 mg) was added to a solution of 0.15 M 2,6-dimethyl-4-morpholin-4-yl-phenylamine and 0.30 M N,N-diisopropyl-ethylamine in 1,2-dichloroethane (1 mL). The vial was shaken for 16 hours and concentrated in vacuo. Aqueous sodium hydroxide (1 M, 2 mL) was added and the crude mixture was extracted with isopropyl acetate/tetrahydrofuran (4:1, 2.5 mL). The organic phase was concentrated in vacuo and redissolved in dimethyl sulfoxide (0.5 mL) of which 0.2 mL was subjected to preparative LC-MS purification to furnish 9.5 mg (47% yield) of the title compound as an oil. LC-MS (m/z) 341 (MH+); tR=2.28, (UV, ELSD) 100%, 100%.

reactant | Benzyl chloroformate | 32 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2,6-dimethyl-4-morpholin-4-yl-phenylamine | 0.15 M | CC1=C(C(=CC(=C1)N1CCOCC1)C)N | C12H18N2O
reactant | N,N-diisopropyl-ethylamine | 0.30 M | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | (2,6-Dimethyl-4-morpholin-4-yl-phenyl)-carbamic acid benzyl ester | 9.5 mg, 47% yield | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1C)N1CCOCC1)C)=O | C20H24N2O3
